US08735379B2
To a solution of 2-hydroxy-4-(trifluoromethyl)benzoic acid (0.5 g, 2.4 mmol) in CH2Cl2 (8 mL0 was added oxalyl chloride (0.46 g, 3.6 mmol) and 2 drops of DMF. The reaction was stirred (RT, 2 h) and then concentrated. The resulting residue was dissolved in CH2Cl2 (8 mL) and tert-butyl 2-aminoethylcarbamate (0.39 g, 2.4 mmol) and diisopropylethylamine (0.41 g, 3.2 mmol) were added. The reaction was stirred (RT, 16 h) and then partitioned between CH2Cl2 and brine. The aqueous layer was extracted with CH2Cl2 and the combined organic extracts were dried over MgSO4. The crude material was purified by silica chromatography (0-10% MeOH/CH2Cl2) to afford 0.55 g of tert-butyl 2-(2-hydroxy-4-(trifluoromethyl)benzamido)ethylcarbamate. Mass calculated for C15H19F3N2O4=348.32. found: [M+Na]+=371.1. This was then dissolved in CH2Cl2 (10 mL) and TFA (4 mL). The reaction was stirred (RT, 3 h) and concentrated and dried to afford 0.7 g of N-(2-aminoethyl)-2-hydroxy-4-(trifluoromethyl)benzamide as a clear oil. Mass calculated for C10H11F3N2O2=248.20. found: [M+H]+=249.1.

reactant | 2-hydroxy-4-(trifluoromethyl)benzoic acid | 2.4 mmol, 0.5 g | OC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H5F3O3
reactant | oxalyl chloride | 3.6 mmol, 0.46 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butyl 2-aminoethylcarbamate | 2.4 mmol, 0.39 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | diisopropylethylamine | 3.2 mmol, 0.41 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | tert-butyl 2-(2-hydroxy-4-(trifluoromethyl)benzamido)ethylcarbamate | 0.55 g | OC1=C(C(=O)NCCNC(OC(C)(C)C)=O)C=CC(=C1)C(F)(F)F | C15H19F3N2O4
